US04870096
N-(4-Nitrophenylmethyl)-2-propenamide
A solution of freshly prepared 4-nitrobenzylamine (3.8 g) in dry dichloromethane (100 ml) containing triethylamine (3.5 ml) was added dropwise to acryloyl chloride (2.2 ml) in dry dichloromethane (100 ml), over 20 min during which time the temperature was kept between -15° and -7°. The reaction mixture was stirred at this temperature for 0.5 h. and then allowed to reach room temperature over a period of 1.25 h. The resulting solution was washed with 2N hydrochloric acid (50 ml), water (50 ml), aqueous 8% sodium bicarbonate solution, and water (50 ml), dried (MgSO4) and evaporated to dryness to afford a solid (3.89 g). This which was triturated with cyclohexane (about 400 ml) to give the title compound as a powder (3.654 g) m.p. 119°-121°.

reactant | 4-nitrobenzylamine | 3.8 g | [N+](=O)([O-])C1=CC=C(CN)C=C1 | C7H8N2O2
reactant | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 2.2 ml | C(C=C)(=O)Cl | C3H3ClO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(4-Nitrophenylmethyl)-2-propenamide | 3.89 g | [N+](=O)([O-])C1=CC=C(C=C1)CNC(C=C)=O | C10H10N2O3
